US05567704
In a 500 ml round bottomed flask, 300 ml of anhydrous THF and the crude pinanediol (R)-1-chloro-5-bromopentylboronate from the previous reaction (assuming 89 g; 0.247 moles) were mixed and cooled to -78° C. with stirring under argon. To the solution was added methylmagnesium bromide (3.26N, 79.6 ml). The solution was warmed to room temperature overnight. Petroleum ether (500 ml) and saturated ammonium chloride (250 ml) were added, forming an emulsion. The aqueous phases were separated. The organic phase was washed with saturated ammonium chloride (2×250 ml), causing the emulsion to disappear. The combined aqueous phases were washed with petroleum ether (2×250 ml). The combined organic phases were dried over sodium sulfate, filtered and evaporated under vacuum to yield 85.85 g of crude pinanediol (R)-5-bromo-1-methylpentylboronate.

reactant | pinanediol (R)-1-chloro-5-bromopentylboronate | Cl[C@@H](CCCCB(O)OC12C(CCC(C1(C)C)C2)(C)O)Br | C15H27BBrClO3
reactant | methylmagnesium bromide | 3.26N, 79.6 ml | C[Mg]Br
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | pinanediol (R)-5-bromo-1-methylpentylboronate | 85.85 g | C12(C(CCC(C1(C)C)C2)(C)O)O.BrCCCC[C@@H](C)B([O-])[O-] | InChI=1S/C10H18O2.C6H12BBrO2/c1-8(2)7-4-5-9(3,11)10(8,12)6-7;1-6(7(9)10)4-2-3-5-8/h7,11-12H,4-6H2,1-3H3;6H,2-5H2,1H3/q;-2/t;6-/m.1/s1
